US04089856
1-Ethyl-1-(methoxycarbonyl-ethyl)-1,2,3,4,6,7,12,12b-octahydro-indolo [2,3-a]quinolizine
An isomer mixture of a ratio described in Example 2 is obtained when dissolving 147 g. of 1-ethyl-(methoxycarbonylethyl)--(methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizine in 16 ml. of methanol and hydrogenating in the presence of 100 mg. palladium on charcoal catalyst.

reactant | 1-ethyl-(methoxycarbonylethyl)--(methoxycarbonylethyl)-1,2,3,4,6,7-hexahydro-12H-indolo[2,3-a]quinolizine | C(C)C1(C(CCN2CCC3=C(C12)NC1=CC=CC=C13)CCC(=O)OC)CCC(=O)OC | C25H34N2O4
catalyst | palladium on charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 1-Ethyl-1-(methoxycarbonyl-ethyl)-1,2,3,4,6,7,12,12b-octahydro-indolo [2,3-a]quinolizine | C(C)C1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CCC(=O)OC | C21H28N2O2
